US07429608B2
N-(7-Bromo-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)quinolin-7-amine.
The reaction of 7-bromo-2-chloro-5-(trifluoromethyl)-1H-benzo[d]imidazole (135 mg, 0.45 mmol, prepared according to the procedures described in WO 2004/035549 A1) with 7-aminoquinoline (43 mg, 0.3 mmol, Synchem) under the condition of Example 2 afforded the title compound as an amorphous solid. MS (ESI, pos. ion) m/z: 407 (M+1).

reactant | 7-bromo-2-chloro-5-(trifluoromethyl)-1H-benzo[d]imidazole | BrC1=CC(=CC2=C1NC(=N2)Cl)C(F)(F)F | C8H3BrClF3N2
reactant | 7-aminoquinoline | 0.3 mmol, 43 mg | NC1=CC=C2C=CC=NC2=C1 | C9H8N2
product | N-(7-Bromo-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)quinolin-7-amine | BrC1=CC(=CC2=C1NC(=N2)NC2=CC=C1C=CC=NC1=C2)C(F)(F)F | C17H10BrF3N4
